US05612363
In a manner similar to Preparation 1 above, 2,3-dihydro-4,5-diphenyl-1H-imidazol-2-one (1.2 g, 5 mmol) was reacted with 3-(bromomethyl)benzonitrile (0.39 g, 2 mmol) and sodium hydride (0.18 g, 5 mmol) in dimethylformamide (20 mL) to give 3-[(2,3-dihydro-4,5-diphenyl-2-oxo-1H-imidazol-1-yl)methyl]benzonitrile after chromatography on silica; NMR (DMSO-d6) 11.02 (s, 1), 7.4 (m,4), 7.3 (m,2), 7.2 (m,7), 4.75 (s,2) ppm.

reactant | 2,3-dihydro-4,5-diphenyl-1H-imidazol-2-one | 5 mmol, 1.2 g | C1(=CC=CC=C1)C=1NC(NC1C1=CC=CC=C1)=O | C15H12N2O
reactant | 3-(bromomethyl)benzonitrile | 2 mmol, 0.39 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | sodium hydride | 5 mmol, 0.18 g | [H-].[Na+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-[(2,3-dihydro-4,5-diphenyl-2-oxo-1H-imidazol-1-yl)methyl]benzonitrile | C1(=CC=CC=C1)C=1NC(N(C1C1=CC=CC=C1)CC=1C=C(C#N)C=CC1)=O | C23H17N3O
